US04144228
13.4 Parts N-t-butoxycarbonylglycyl-L-phenylalanine benzyl ester is dissolved in 200 parts dioxane and treated with a 10 fold excess of 2 N hydrochloric acid in dioxane for 10 minutes. Removal of the solvent under reduced pressure affords pure glycyl-L-phenylalanine benzyl ester hydrochloride.

reactant | N-t-butoxycarbonylglycyl-L-phenylalanine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](NC(CNC(=O)OC(C)(C)C)=O)CC1=CC=CC=C1)=O | C23H28N2O5
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | glycyl-L-phenylalanine benzyl ester hydrochloride | Cl.C(C1=CC=CC=C1)OC([C@@H](NC(CN)=O)CC1=CC=CC=C1)=O | InChI=1S/C18H20N2O3.ClH/c19-12-17(21)20-16(11-14-7-3-1-4-8-14)18(22)23-13-15-9-5-2-6-10-15;/h1-10,16H,11-13,19H2,(H,20,21);1H/t16-;/m0./s1
